US06828317B2
N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-2-hydroxyacetamide
Prepared from 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one (0.300 g, 0.925 mmol) and acetoxyacetic acid (0.120 g, 1.02 mmol) according to the method of Example 15. The crude product is deacetylated by dissolving in 0.1M LiOH in methanol (10 ml) and stirring for 2 hours at room temperature. The reaction mixture is neutralized with acetic acid, evaporated under vacuum, and the residue is purified by PTLC to give product as a white solid (0.27 g, 78%); 1HNMR (300 MHz, DMSO-d6) δ 3.39-3.54 (m, 2H), 3.59 (s, 2H), 3.82-3.87 (m, 3H), 4.14 (t, J=9.1 Hz, 1H), 4.75-4.83 (m, 1H), 5.53 (t, J=5.5 Hz, 1H), 7.38 (dd, J=2.2, 8.5 Hz, 1H), 7.52 (dd, J=2.2, 14 Hz, 1H), 7.69 (t, J=8.8 Hz, 1H), 8.07 (t, J=6.0 Hz, 1H), 11.6 (s, 1H); mp 157-8; MS (m/z): [M+H]+=383.

reactant | 2-[4-(5(S)-aminomethyl-2-oxo-oxazolidin-3-yl)-2-fluorophenyl]-4H-[1,3,4]thiadiazin-5-one | 0.925 mmol, 0.300 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C=1SCC(NN1)=O)F | C13H13FN4O3S
reactant | acetoxyacetic acid | 1.02 mmol, 0.120 g | C(C)(=O)OCC(=O)O | C4H6O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | LiOH | 0.1M | [Li+].[OH-]
solvent | methanol | 10 ml | CO | CH4O
product | N-{3-[3-Fluoro-4-(5-oxo-5,6-dihydro-4H-[1,3,4]thiadiazin-2-yl)-phenyl]-2-oxo-oxazolidin-5(S)-ylmethyl}-2-hydroxyacetamide | 0.27 g, 78% | FC=1C=C(C=CC1C=1SCC(NN1)=O)N1C(O[C@H](C1)CNC(CO)=O)=O | C15H15FN4O5S
